Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x5(LIMA-LAD, SVG-RAMUS, 
SVG-RCA, SVG-PDA)  

 
History of Present Illness:
This is a ___ M PMhx HTN, HLD, with recent history of chest 
pain, admitted after  elective cardiac catheterization. Per 
patient report, 3 wks prior to admission patient was in ___, 
developed upper abdominal pain associated with belching.  
Patient presented to a local ED and per patient report, was told 
he had an unremarkable EKG and was discharged without any 
further testing. He was vomiting prior the onset of the abd pain 
and continued to vomit after ED visit.
Patient returned to ___ and saw his PCP, who ordered a stress 
echo, which demonstrated depressions in apical leads ___.  
Patient was referred to ___ for elective cardiac 
catheterization, Cath was notable for 80% distal L main lesion, 
LAD 70% proximal, RCA mid-ulcerated <50%, ostial PDA 80%. Given 
3 vessel disease patient was evaluated by Cardiac Surgery, 
recommended for CABG.  Patient was admitted to cardiology for 
further pre-operative management. 

On evaluation post-cath, vital signs were 98.7 57 147/77 19 96%.

He denies any PND, orthopnea, chest pain, palpitations, 
presyncope, syncope, claudication, or shortness of breath. He 
has been cold and tired all winter long.  

 
Past Medical History:
- Hyperlipidemia
- Hypertension
- h/o nephrolithiasis 
- h/o right hand fracture
- h/o left leg fracture
- h/o Basal Cell CA
 
Social History:
___
Family History:
Mother died at age ___ of colon cancer. Father died at age ___ of 
unknown causes.  He is the oldest of 5 siblings, none of which 
have any coronary artery disease, arrhythmias, or sudden cardiac 
death.
 
Physical Exam:
ADMISSION:
VS:98.7 53 158/80 16 99%
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with flat JVP 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No femoral bruits. Right radial site 
without hematoma. Site c/d/i. 2+ radial pulses. 
PULSES:  
Right: Carotid 2+  DP 2+ ___ 2+  
Left: Carotid 2+  DP 2+ ___ 2+ 
 
Pertinent Results:
Cardiac Cath:
1. Selective coronary angiography of this right dominant system
demonstrated three vessel disease. The LMCA had 80% distal 
lesion. The
LAD had a 70% proximal stenosis. The LCX had no significant 
disease. The
ramus was a moderate caliber vessel with no signicant disease. 
The RCA
had a mid ulcerated lesion with < 50% disease, sequential mid 
60%
stenosis and 80% ostial PDA.
2. Limited resting hemodynamics revelaed mildly left ventricular
diastolic dysfunction with LVEDP 17 mmHg. There was mild 
systemic
arterial hypertension at the central aortic level 157/70 mmHg. 
There was
no gradient across the aortic valve after careful pullback.
3. Left ventriculography was deferred.
 
FINAL DIAGNOSIS:    
1. Left main disease and two vessel coronary artery disease.
2. Mild left ventricular diastolic dysfunction.
3. No aortic stenosis.

ECHO
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.'

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild mitral regurgitation.  

Carotid Ulrasound
Impression: Right ICA with  40-59%  stenosis.
Left ICA with <40%  stenosis.

Chest Xray:
No evidence of acute disease.

___ 05:06AM BLOOD WBC-9.6 RBC-3.14* Hgb-10.1* Hct-30.6* 
MCV-97 MCH-32.3* MCHC-33.2 RDW-12.9 Plt ___
___ 05:06AM BLOOD ___
___ 05:06AM BLOOD Glucose-105* UreaN-23* Creat-0.8 Na-136 
K-4.1 Cl-104 HCO3-26 AnGap-___ with past medical history of HTN and HLD presented to ___ 
for cardiac cath following positive outpatient stress test. 
Cardiac cath showed newly diagnosed three vessel disease 
including an 80% distal Left main lesion. Patient was admitted 
to the cardiology service for medical optimization prior to 
planned coronary artery bypass grafting. The cardiac surgery 
service was consulted for evaluation and Mr. ___ was worked-up 
in the usual preoperative manner. He received carvedilol, 
aspirin, and atorvastatin for CAD medical optimization. An Echo 
showed left ventricular hypertrophy with good systolic function. 
A carotid ultrasound showed mild to moderate bilateral internal 
carotid artery stenosis. On ___, ___ was taken to the 
operating room where he underwent coronary artery bypass 
grafting x4 (___->lad/ SVG->Ramus/RCA/PDA). Please see 
operative note for further details. He tolerated the procedure 
well and he was transferred to the CVICU. He required pressor 
support for optimal hemodynamics. He later woke neurologicaly 
intact and was extubated without difficulty. He had NSVT and was 
placed on Amiodarone intravenously. The ectopy resolved and 
Amiodarone was converted to oral.  He weaned off phenylephrine 
and Beta-blocker/Statin/ASA and diuresis were initiated. Chest 
tubes and pacing wires were discontinued per protocol without 
difficulty. On postoperative day one, he was transferred to the 
step down unit for further recovery. On PO4 he went into a rapid 
atrial fibrillation which converted to sinus rhythm.  His beta 
blocker was increased, he continued on oral Amiodarone and he 
was started on Coumadin for paroxsymal atrial fibrillation. When 
he did go into atrial fibrillation, he was rate controlled.  The 
physical therapy service was consulted for evaluation of 
strength and mobility. He continued to progress and on ___ 
was cleared for discharge to home on POD 6. All follow up 
appointments were advised. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO BID 
2. Simvastatin 20 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
3. Docusate Sodium 100 mg PO BID 
4. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0
5. Ibuprofen 400 mg PO Q8H:PRN pain  
6. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 25 mg 3 tablet(s) by mouth every 8 hours 
Disp #*60 Tablet Refills:*1
7. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg ___ tablet(s) 
by mouth every 4 hours Disp #*40 Tablet Refills:*0
8. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride [Klor-Con] 20 mEq 1 packet by mouth daily 
Disp #*5 Packet Refills:*0
9. Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control] 150 mg 1 tablet(s) by mouth 
every 12 hours Disp #*30 Tablet Refills:*1
10. Multivitamins 1 TAB PO DAILY 
11. Acetaminophen 650 mg PO Q4H:PRN fever, pain 
12. ___  MD to order daily dose PO DAILY16 
RX *warfarin [Coumadin] 1 mg 0 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
13. Amiodarone 400 mg PO BID Duration: 7 Days 
RX *amiodarone 200 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease
Hyperlipidemia
s/p right hand fracture
Nephrolithiasis 
Basal Cell CA
left leg fracture

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage.+1 Edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___